US06608085B1
α-(2-Nitro-2-propyl)-2,8-bis(trifluoromethyl)-4-quinolinemethanol
A mixture of 2,8-bis(trifluoromethyl)-4-quinolinecarboxaldehyde (200 mg, 0.85 mmol), 2-nitropropane (0.1 mL, 1.1 mmol) and Amberlyst 21 resin (200 mg) was stirred at room temperature for 17 h, treated with CH2Cl2 (3 mL), filtered to remove the resin, the filtrate concentrated in vacuo to give a viscous oil which was crystallised from heptane to give a white solid which was recrystallised (ether/heptane) to give the product (140 mg, 51%) as a white crystalline solid: IR νmax (Nujol)/cm−1 3484, 2923, 1544, 1311, 1134 and 780; NMR δH (400 MHz, CDCl3) 1.37 (3H, s), 1.54 (3H, s), 3.03 (1H, d, J 4.5 Hz),6.36 (1H, d, J 4.4 Hz), 7.80 (1H, t, J 8.1 Hz), 8.07 (1H, s), 8.21 (1H, d, J 7.1 Hz) and 8.44 (1H, d, J 8.5 Hz).

reactant | 2,8-bis(trifluoromethyl)-4-quinolinecarboxaldehyde | 0.85 mmol, 200 mg | FC(C1=NC2=C(C=CC=C2C(=C1)C=O)C(F)(F)F)(F)F | C12H5F6NO
reactant | 2-nitropropane | 1.1 mmol, 0.1 mL | [N+](=O)([O-])C(C)C | C3H7NO2
solvent | CH2Cl2 | 3 mL | C(Cl)Cl | CH2Cl2
product | α-(2-Nitro-2-propyl)-2,8-bis(trifluoromethyl)-4-quinolinemethanol | 140 mg, 51% | [N+](=O)([O-])C(C)(C)C(O)C1=CC(=NC2=C(C=CC=C12)C(F)(F)F)C(F)(F)F | C15H12F6N2O3
